US05723499
(a) Preparation of ethyl 2-[7-(1-adamantyl)-6-hydroxy-2-naphthyl]-4-thiophenecarboxylate
8.29 g (15.2 mmol) of ethyl 2-[7-(1-adamantyl)-6-tert-butyldimethylsilyloxy-2-naphthyl]-4-thiophenecarboxylate and 60 ml of THF were introduced into a round-bottomed flask. A solution of 15.2 ml (16.6 mmol) of tetrabutylammonium fluoride in THF (1.1N) was added dropwise and the mixture was stirred at room temperature for 2 hours. The reaction medium was poured into water, extracted with ethyl ether, the organic phase decanted, dried over magnesium sulfate and evaporated. The residue obtained was triturated in heptane, filtered and dried. 6.12 g (93%) of ethyl 2-[7-(1-adamantyl)-6-hydroxy-2-naphthyl]-4-thiophenecarboxylate of melting point 199°-200° C. were recovered.

reactant | ethyl 2-[7-(1-adamantyl)-6-tert-butyldimethylsilyloxy-2-naphthyl]-4-thiophenecarboxylate | 15.2 mmol, 8.29 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)C=2SC=C(C2)C(=O)OCC)O[Si](C)(C)C(C)(C)C | C33H42O3SSi
reactant | tetrabutylammonium fluoride | 16.6 mmol, 15.2 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | THF | 1.1N | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | ethyl 2-[7-(1-adamantyl)-6-hydroxy-2-naphthyl]-4-thiophenecarboxylate | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)C=2SC=C(C2)C(=O)OCC)O | C27H28O3S
